US06462036B1
5-Aminoindan-1-one (2.5 g) was reacted with benzoyl chloride (2.63 g) in dichloromethane and triethylamine to give 5-benzamidoindan-1-one which was reacted with benzaldehyde in a similar manner to Example 7a) to give N-(2-benzylidene-1-oxoindan-5-yl)benzamide which was reacted with hydrogen peroxide in a similar manner to Example 7b) to give an intermediate which was reacted with hydrazine hydrate in a similar manner to Example 7c) to give -(3N-phenyl-1,4-dihydroindeno[1,2-c]pyrazol-6-yl)benzamide, m.p. 271° C., after chromatography of the reaction mixture.

reactant | 5-Aminoindan-1-one | 2.5 g | NC=1C=C2CCC(C2=CC1)=O | C9H9NO
reactant | benzoyl chloride | 2.63 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-benzamidoindan-1-one | C(C1=CC=CC=C1)(=O)NC=1C=C2CCC(C2=CC1)=O | C16H13NO2
